US08017604B2
Step 7: 4-(Azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (6-bromo-2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide
TBTU (159 mg) and diisopropylethylamine (128 mg) were added to a solution of 5-(6-bromo-2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (145 mg, 0.33 mmol) in DMF (3 ml), and the light-brown solution was stirred at r.t. (30 min). Azetidine (56 mg, 0.98 mmol) was added and the mixture was stirred at r.t. overnight. The reaction mixture was taken up in ethyl acetate and washed (water). The organic layers were dried (Na2SO4) and evaporated. The title compound (32 mg, 20%) was isolated from the residue by column chromatography (silica gel, heptane:ethyl acetate=50:50-0:100), followed by preparative, inverse-phase HPLC (Agilent Zorbax XdB-C18 column, time per run ˜7 min, flow rate 30 ml/min, solvent gradient H2O/CH3CN=95:5-5:95). MS (m/e)=479.1 [M+H+].

reactant | TBTU | 159 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 128 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(6-bromo-2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 0.33 mmol, 145 mg | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)NC(=O)C2=C(C=NN2C)C(=O)O | C19H14BrN5O3
reactant | Azetidine | 0.98 mmol, 56 mg | N1CCC1 | C3H7N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (6-bromo-2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide | 32 mg, 20% | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C | C22H19BrN6O2
